US03953500
To 30 ml. of benzene is added 5.35 g. of 1-hydroxyindan-4-carboxylic acid. Following the addition of 15 ml. of thionyl chloride, the mixture is stirred fo 3 hours. Then, the reaction mixture is concentrated to dryness under reduced pressure and the resultant crystals are recrystallized from benzene. The described procedure gives 1-chloroindan-4-carboxylic acid melting at 135.5°-137.5°C.

reactant | 1-hydroxyindan-4-carboxylic acid | OC1CCC=2C(=CC=CC12)C(=O)O | C10H10O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-chloroindan-4-carboxylic acid | ClC1CCC=2C(=CC=CC12)C(=O)O | C10H9ClO2
